US08357694B2
This product was synthesized as described in general procedure 2 except 4-(6-(4-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate was used instead of 4-(6-(3-bromophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate and N-methylcyclohexanamine was used instead of piperidine to afford 6-(4-chlorophenyl)-N-(4-(2-(cyclohexyl(methyl)amino)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride. M.p.=157-163° C. 1H NMR 400 MHz (DMSO) δ 9.94 (bs, 1H), 9.61 (s, 1H), 8.34-8.29 (m, 2H), 7.81 (d, J=8.8 Hz, 2H), 7.54-7.45 (m, 2H), 7.35-7.31 (m, 2H), 7.26 (d, J=8.4 Hz, 2H), 7.16-7.09 (m, 3H), 4.44 (t, J=6.4 Hz, 1H), 3.40-3.07 (m, 4H), 3.02-2.95 (m, 2H), 2.75 (d, J=4.8 Hz, 3H), 2.08-1.98 (m, 2H), 1.84-1.78 (m, 2H), 1.63-1.06 (m, 7H). LCMS m/e 523 (M+H).

reactant | 4-(6-(4-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)C1=CC=C(C=C1)Cl)C=CC=C3 | C27H24ClN3O3S
reactant | N-methylcyclohexanamine | CNC1CCCCC1 | C7H15N
product | 6-(4-chlorophenyl)-N-(4-(2-(cyclohexyl(methyl)amino)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride | Cl.ClC1=CC=C(C=C1)C1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC=C(C=C2)CCN(C)C2CCCCC2 | InChI=1S/C33H35ClN4.ClH/c1-38(28-7-3-2-4-8-28)20-19-23-11-17-27(18-12-23)36-33-35-22-25-21-31(24-13-15-26(34)16-14-24)29-9-5-6-10-30(29)32(25)37-33;/h5-6,9-18,22,28,31H,2-4,7-8,19-21H2,1H3,(H,35,36,37);1H
